US03988454
A. N-[2-(4-Bromophenethyl)-phenethyl]-formamide
A solution of 0.60 g. (0.00197 mole) of 2-(4-bromophenethyl)-phenethylamine in 20 ml. of ethyl formate is heated to refluxing for about 19 hours. The solution is evaporated to dryness under reduced pressure and the residue dissolved in dry benzene. Evaporation of the solvent under reduced pressure leaves the product as the residual yellow oil.

reactant | 2-(4-bromophenethyl)-phenethylamine | 0.00197 mole | BrC1=CC=C(CCC2=C(CCN)C=CC=C2)C=C1 | C16H18BrN
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | N-[2-(4-Bromophenethyl)-phenethyl]-formamide | BrC1=CC=C(CCC2=C(CCNC=O)C=CC=C2)C=C1 | C17H18BrNO
